US08119617B2
1 g of (2-amino-benzyl)-phosphonic acid diethyl ester, 2 g of 4′-octyloxy-biphenyl-4-carboxylic acid, 1.4 ml of EDC, 0.9 ml of DIEA and 100 mg of HOAt are dissolved in 30 ml of DMF and the mixture obtained is stirred at rt for 2 days. The mixture obtained is diluted with EtOAc and the solution obtained is washed with aqueous diluted HCl and aqueous NaHCO3 solution. The organic layer obtained is dried and solvent is evaporated. {2-[(4′-Octyloxy-biphenyl-4-carbonyl)-amino]-benzyl}-phosphonic acid diethylester is obtained in crystalline form and is recrystallized from iso-propanol/water.

reactant | (2-amino-benzyl)-phosphonic acid diethyl ester | 1 g | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)N | C11H18NO3P
reactant | 4′-octyloxy-biphenyl-4-carboxylic acid | 2 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O3
reactant | DIEA | 0.9 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOAt | 100 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EDC | 1.4 ml
product | {2-[(4′-Octyloxy-biphenyl-4-carbonyl)-amino]-benzyl}-phosphonic acid diethylester | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC | C32H42NO5P
